US06235789B1
1-(2-Hydroxyethyl)-6-methoxyindan
To a suspension of lithium aluminum hydride (1.06 g, 27.9 mmol) in THF (150 ml) was added dropwise, under ice-cooling, a solution of ethyl (6-methoxyindan-1-yl)acetate (6.53 g, 27.9 mmol) in THF (20 ml), and the mixture was stirred for 15 minutes. To the reaction mixture was added water (1 ml), to which were further added ethyl acetate, anhydrous magnesium sulfate and celite. The mixture was subjected to filtration. The filtrate was concentrated under reduced pressure to give 4.96 g (yield 93%) of the above-titled compound as an oily product.

reactant | lithium aluminum hydride | 27.9 mmol, 1.06 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl (6-methoxyindan-1-yl)acetate | 27.9 mmol, 6.53 g | COC1=CC=C2CCC(C2=C1)CC(=O)OCC | C14H18O3
reactant | water | 1 ml | O | H2O
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-Hydroxyethyl)-6-methoxyindan | 4.96 g, yield 93% | OCCC1CCC2=CC=C(C=C12)OC | C12H16O2
